US07320992B2
2-(4-t-Butyl-phenyl)-7-hydroxy-2,3-dihydro-isoindol-1-one (0.201 g), 4-hydroxymethylpyridine (96 mg) and PPh3 (0.212 g) were dissolved in THF (20 mL). DIAD (0.16 mL) was added and the mixture was stirred at RT for 2 h. Solvent was evaporated and the residue was purified by silica gel chromatography (70 g, 100% EtOAc) to afford 2-(4-t-butyl-phenyl)-7-(pyridin-4-ylmethoxy)-2,3-dihydro-isoindol-1-one as a white solid. MS: (ES+) 373(M+H). Calc'd. for C24H24N2O2-372.46.

reactant | 2-(4-t-Butyl-phenyl)-7-hydroxy-2,3-dihydro-isoindol-1-one | 0.201 g | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=C(C=CC=C2C1)O)=O | C18H19NO2
reactant | 4-hydroxymethylpyridine | 96 mg | OCC1=CC=NC=C1 | C6H7NO
reactant | PPh3 | 0.212 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 0.16 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 2-(4-t-butyl-phenyl)-7-(pyridin-4-ylmethoxy)-2,3-dihydro-isoindol-1-one | C(C)(C)(C)C1=CC=C(C=C1)N1C(C2=C(C=CC=C2C1)OCC1=CC=NC=C1)=O | C24H24N2O2
